US09145409B2
Intermediate 44. (S)-3,5-dichloro-4-(2-(3,4-dimethoxyphenyl)-2-((4-(hydroxymethyl)benzoyl)oxy)ethyl)pyridine 1-oxide (I44)
To a stirred solution of (S)-3,5-dichloro-4-(2-(3,4-dimethoxyphenyl)-2-((4-formylbenzoyl)oxy)ethyl)pyridine 1-oxide (412 mg, 0.87 mmol) in DCM (10 mL) was added 3-aminopyridazine (165 mg, 1.73 mmol) followed by glacial acetic acid (150 μL, 2.61 mmol). The reaction was stirred at room temperature for 30 minutes then NaB(OAc)3H (551 mg, 2.61 mmol) was added. The reaction mixture was stirred at room temperature for 18 hours. The reaction was diluted with DCM (10 mL) and quenched with water. The organic phase was washed with saturated aqueous NaHCO3 solution, filtered through hydrophobic fit and evaporated to dryness. The residue was triturated with DCM (2 mL) and CH3CN (5 mL). The solid was collected by filtration, washed with DCM and dried to provide the title compound (300 mg, 72%) as white solid.

reactant | (S)-3,5-dichloro-4-(2-(3,4-dimethoxyphenyl)-2-((4-formylbenzoyl)oxy)ethyl)pyridine 1-oxide | 0.87 mmol, 412 mg | ClC=1C=[N+](C=C(C1C[C@H](OC(C1=CC=C(C=C1)C=O)=O)C1=CC(=C(C=C1)OC)OC)Cl)[O-] | C23H19Cl2NO6
reactant | 3-aminopyridazine | 1.73 mmol, 165 mg | NC=1N=NC=CC1 | C4H5N3
reactant | acetic acid | 2.61 mmol, 150 μL | C(C)(=O)O | C2H4O2
reactant | NaB(OAc)3H | 2.61 mmol, 551 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | (S)-3,5-dichloro-4-(2-(3,4-dimethoxyphenyl)-2-((4-(hydroxymethyl)benzoyl)oxy)ethyl)pyridine 1-oxide | 300 mg, 72% | ClC=1C=[N+](C=C(C1C[C@H](OC(C1=CC=C(C=C1)CO)=O)C1=CC(=C(C=C1)OC)OC)Cl)[O-] | C23H21Cl2NO6
